US04048334
Preparation of 1,1-dimethyl-3-ethyl-n-hexylamine acid fumarate
1,1-Dimethyl-3-ethyl-n-hexylamine 1,1-Dimethyl-3-ethyl-n-hexylamine in free base form was first prepared by reacting a 30% aqueous solution of sodium hydroxide with 1,1-dimethyl-3-ethyl-n-hexylamine hydrochoride. The free base so obtained was then extracted with ether.

reactant | 1,1-Dimethyl-3-ethyl-n-hexylamine 1,1-Dimethyl-3-ethyl-n-hexylamine | CC(CC(CCC)CC)(C)N.CC(CC(CCC)CC)(C)N | 2C10H23N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1,1-dimethyl-3-ethyl-n-hexylamine hydrochoride | Cl.CC(CC(CCC)CC)(C)N
product | 1,1-dimethyl-3-ethyl-n-hexylamine | CC(CC(CCC)CC)(C)N | C10H23N
